US07414049B2
d) (S)-3-Amino-7,8-difluoro-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester hydrochloride
A solution of 120 mg of (S)-3-tert-butoxycarbonylamino-7,8-difluoro-4-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester in 4 ml of dioxane was treated with 0.27 ml of hydrochlorid acid (37%). The reaction mixture was warmed to 50° C. for 3 hours. For the working-up, the mixture was evaporated under reduced pressure. The oily residue was evaporated three times with 25 ml of toluene to yield thereby quantitatively the title compound as a light yellow solid which was engaged in the next step without further purification; MS (m/e): 340 (M+H)+.

reactant | (S)-3-tert-butoxycarbonylamino-7,8-difluoro-4-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester | 120 mg | FC(COC(=O)N1C2=C(N(C([C@H](C1)NC(=O)OC(C)(C)C)=O)CC(F)(F)F)C=C(C(=C2)F)F)(F)F | C19H19F8N3O5
reactant | hydrochlorid | 0.27 ml | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-7,8-difluoro-4-oxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester hydrochloride | Cl.FC(COC(=O)N1C2=C(NC([C@H](C1)N)=O)C=C(C(=C2)F)F)(F)F | InChI=1S/C12H10F5N3O3.ClH/c13-5-1-8-9(2-6(5)14)20(3-7(18)10(21)19-8)11(22)23-4-12(15,16)17;/h1-2,7H,3-4,18H2,(H,19,21);1H/t7-;/m0./s1
